US07576215B2
[4-{3-[(4-METHYLPENT-3-ENYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 5-Bromo-2-methyl-pent-2-ene following the procedure of Example 478: MS (ESI) m/z 476.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 5-Bromo-2-methyl-pent-2-ene | BrCCC=C(C)C | C6H11Br
product | [4-{3-[(4-METHYLPENT-3-ENYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | CC(=CCCOC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1)C | C29H24F3NO2
